US07939527B2
Intermediate 14: 2-[4-([1,3]Thiazolo[4,5-b]pyridin-2-yloxy)phenyl]ethanol
To a solution of 4-hydroxyphenethyl alcohol (1.16 g, 8.4 mmol, 1.2 equiv.) and K2CO3 (1.94 g, 14.06 mmol, 2 equiv.) in CH3CN (12 mL) was added 2-chloro[1,3]thiazolo[4,5-b]pyridine (1.2 g, 7.03 mmol, 1 equiv.). The reaction mixture was heated to 80° C. and stirred for 16 h. Satd. aq. Na2CO3 (25 mL) was added to the reaction mixture, which was then extracted with isopropyl acetate (2×30 mL). The combined organic layers were dried, filtered, and concentrated. The crude material was purified by column chromatography (50% EtOAc/hexanes-100% EtOAc), which afforded the title compound as a light orange oil (74%). MS (ESI): mass calcd. for C14H12N2O2S, 272.32; m/z found, 273.0 [M+H]+. 1H NMR (500 MHz, CDCl3): 8.56 (dd, J=4.8, 1.6, 1H), 8.03 (dd, J=7.9, 1.7, 1H), 7.37-7.29 (m, 4H), 7.22 (dd, J=7.9, 4.8, 1H), 3.88 (dd, J=12.5, 6.5, 2H), 2.91 (t, J=6.6, 2H), 2.03 (t, J=5.9, 1H).

reactant | 4-hydroxyphenethyl alcohol | 8.4 mmol, 1.16 g, 1.2 equiv. | OC1=CC=C(CCO)C=C1 | C8H10O2
reactant | K2CO3 | 14.06 mmol, 1.94 g, 2 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro[1,3]thiazolo[4,5-b]pyridine | 7.03 mmol, 1.2 g, 1 equiv. | ClC=1SC=2C(=NC=CC2)N1 | C6H3ClN2S
reactant | Na2CO3 | 25 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH3CN | 12 mL | CC#N | C2H3N
product | 2-[4-([1,3]Thiazolo[4,5-b]pyridin-2-yloxy)phenyl]ethanol | 74% | S1C(=NC2=NC=CC=C21)OC2=CC=C(C=C2)CCO | C14H12N2O2S
